US07538131B2
j) Preparation of 2-{(1S,3R)-3-[5-Ethyl-2-(4-trifluoromethylphenyl)oxazol-4-ylmethoxymethyl]cyclohexylmethoxy}-2-methylpropionic acid
270 mg of tert-butyl 2-{(1S,3R)-3-[5-ethyl-2-(4-trifluoromethylphenyl)oxazol-4-ylmethoxymethyl]cyclohexylmethoxy}-2-methylpropionate are dissolved in 5 ml of dichloromethane and 2.5 ml of trifluoroacetic acid and stirred overnight. The solution is then completely evaporated, and the residue is purified by preparative HPLC, resulting in 127 mg of 2-{(1S,3R)-3-[5-ethyl-2-(4-trifluoromethylphenyl)oxazol-4-ylmethoxymethyl]cyclohexylmethoxy}-2-methylpropionic acid as yellow oil.

reactant | tert-butyl 2-{(1S,3R)-3-[5-ethyl-2-(4-trifluoromethylphenyl)oxazol-4-ylmethoxymethyl]cyclohexylmethoxy}-2-methylpropionate | 270 mg | C(C)C1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)COC[C@H]1C[C@H](CCC1)COC(C(=O)OC(C)(C)C)(C)C | C29H40F3NO5
reactant | trifluoroacetic acid | 2.5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 2-{(1S,3R)-3-[5-Ethyl-2-(4-trifluoromethylphenyl)oxazol-4-ylmethoxymethyl]cyclohexylmethoxy}-2-methylpropionic acid | C(C)C1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)COC[C@H]1C[C@H](CCC1)COC(C(=O)O)(C)C | C25H32F3NO5
